datasets/10k_Mayr_OG.csv
SMILES Labelled
"COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2.C[Si](C)(C)[N:62]1[CH:61]=[N:10][CH:64]=[CH:63]1>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([N+:10]1=[CH:61][N:62]([Si](C)(C)C)[CH:63]=[CH:64]1)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10=20;20,21=21,22;22,23=23"
"C[Si:11](C)([H:10])[CH2:62][Si:63](C)(C)C.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].C[Si+:11](C)[CH2:62][Si:63](C)(C)C.FC(F)[S:20][H:10] 10,11=10,20;20,21=21,22;22,23=23"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22](=[O:23])[O:39]1.[CH:10](=[C:11]=[N-:12])[C:71]1=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH:10]([C:11]#[N:12])[C:71]2=[CH:72][CH:73]=[C:74]([N+:75](=[O:76])[O-:96])[CH:85]=[CH:84]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"Br[CH-:10][S:61](C1=CC=CC=C1)(=[O:62])=[O:72].CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](Br)[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C[C:11](=[N:10][C:61](C)=[O:62])[O-:12].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>C[C:11]([N:10]([CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)[C:61](C)=[O:62])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[O:12][C:11]1=[CH:10][CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1.Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23]>>C[O+:12]=[C:11]1[CH:10]([CH:20]2[C:21](Cl)=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32]2=[O:33])[CH:71]=[CH:72][C:63]([O:64]C)=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[H:10][C:11]([C:12]1=[CH:13][CH:14]=[CH:15][CH:64]=[CH:63]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](N(C)C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[C:11](=[C:12]1[CH:13]=[CH:14][CH+:15][CH:64]=[CH:63]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1 10,11=10,20;12,13=11,12;14,15=13,14"
"CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.NC1=NC=N[C:61]2=[C:62]1[N-:12][CH:11]=[N:10]2>>CN(CC(F)(F)F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[N:12][C:62]3=[C:61]2N=CN=C3N)[C:41]2=[CH:42][CH:43]=[C:44](N(C)CC(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1CC[NH:10]C1.CCC[C:20](C)=[O:21]>>CCC[C:20](C)([NH+:10]1CCCC1)[O-:21] 10=20;20,21=21"
"CC(C)[Si:63](C(C)C)(C(C)C)[CH2:62][CH:11]=[CH2:10].COC1=CC2=C(C=C1)[N+:23](C)=[CH:22][C:21]2=[CH:20][C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2>>COC1=CC2=C(C=C1)[N:23](C)[CH:22]=[C:21]2[CH:20]([CH2:10][CH+:11][CH2:62][Si:63](C(C)C)(C(C)C)C(C)C)[C:31]1=[CH:32][N:33](C)[C:42]2=[C:41]1C=C(OC)C=C2 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(/[CH:20]=[CH:21]/[C:22]#[N:23])C=C1.[S-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1>>C1=CC=C([CH:20]([S:10][C:61]2=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]2)[CH:21]=[C:22]=[N-:23])C=C1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=C([N+](=O)[O-])C=C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10](C2=CC=C([N+](=O)[O-])C=C2)[C:11]2=[N+:12](C3=C(C(C)(C)C)C=CC=C3C(C)(C)C)CC[N:63]2C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:21]2=[C:22]([O-:23])[N:51](C)C(=O)[N:52](C)[C:32]2=[O:33])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[C:11]1=[CH2:10].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[CH:22]=[N+:23]2/C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11]2CC2)[CH:21]=[CH:22][N:23]2C(CC3=CC=CC=C3)C(=O)N(C)C2(C)C)[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
